US06525070B2
Step b: 6-Fluoro-imidazo[1,2-a]pyridine-2-carboxylic acid
A solution of 6-fluoro-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester (1 g) in 4N HCl was refluxed for 4 hours. The solvent was evaporated to give the sub-title compound as a white solid (0.86 g).

reactant | 6-fluoro-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1N=C2N(C=C(C=C2)F)C1 | C10H9FN2O2
solvent | HCl | 4N | Cl | ClH
product | 6-Fluoro-imidazo[1,2-a]pyridine-2-carboxylic acid | 0.86 g | FC=1C=CC=2N(C1)C=C(N2)C(=O)O | C8H5FN2O2
